US07625880B2
Bromotrimethylsilane (6.0 mL, 45.4 mmol) was added dropwise to (4-fluoro-benzyl)-phosphonic acid dimethyl ester (4.57 g, 20.95 mmol) and stirred in a reaction flask chilled to 0° C. The resulting solution was allowed to warm to ambient temperature and stirred for an additional hour, then concentrated by rotary evaporation to remove volatiles yielding crude (4-fluoro-benzyl) phosphonic acid bis(trimethylsilyl) ester which was used without further purification.

reactant | Bromotrimethylsilane | 45.4 mmol, 6.0 mL | Br[Si](C)(C)C | C3H9BrSi
reactant | (4-fluoro-benzyl)-phosphonic acid dimethyl ester | 20.95 mmol, 4.57 g | COP(OC)(=O)CC1=CC=C(C=C1)F | C9H12FO3P
product | (4-fluoro-benzyl) phosphonic acid bis(trimethylsilyl) ester | C[Si](C)(C)OP(O[Si](C)(C)C)(=O)CC1=CC=C(C=C1)F | C13H24FO3PSi2
